US07297697B2
{4-{4-[Bis-(4-fluorophenyl)methyl]-piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid isopropyl ester dihydrochloride, (Ih)
To a stirred solution of {4-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid (1.0 g, 0.0024 mol) in isopropyl alcohol (20 ml), is added a solution of anhydrous HCl in isopropyl alcohol till pH of solution is 1-2. The solution is refluxed for around 2 hrs, cooled to 25-30° C. and stirred for 4 hrs. The crystallized solid is filtered, washed with isopropyl alcohol (2×5 ml), and dried in oven at 60-65° C. to get product 0.968 g (75.85% yield).

reactant | {4-{4-[bis-(4-fluorophenyl)methyl]piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid | 0.0024 mol, 1.0 g | FC1=CC=C(C=C1)C(N1CCN(CC1)C\C=C/COCC(=O)O)C1=CC=C(C=C1)F | C23H26F2N2O3
reactant | HCl | Cl | ClH
reactant | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | {4-{4-[Bis-(4-fluorophenyl)methyl]-piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid isopropyl ester dihydrochloride | 0.968 g, 75.85% yield | Cl.Cl.C(C)(C)OC(COC\C=C/CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | InChI=1S/C26H32F2N2O3.2ClH/c1-20(2)33-25(31)19-32-18-4-3-13-29-14-16-30(17-15-29)26(21-5-9-23(27)10-6-21)22-7-11-24(28)12-8-22;;/h3-12,20,26H,13-19H2,1-2H3;2*1H/b4-3-;;
